US04810713
1-[4-[3-[4-[Bis(4-methoxyphenyl)methyl]-1-piperidinyl]propoxy]-3-methoxyphenyl]ethanone oxalate [1:1]
A mixture of 7.78 g (0.025 mole) of 4-[bis(4-methoxyphenyl)methyl]piperidine, 6.05 g (0.025 mole) of 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone, and potassium carbonate (5.53 g, 0.04 mole) in 300 ml of 1-butanol containing potassium iodide (0.3 g) was refluxed overnight. The reaction mixture was stripped to dryness and the residue was partitioned between chloroform and water; removal of chloroform in vacuo gave a dark brown oil. The oil was subjected to column chromatography on silica gel using a gradient elution composed of methanol and ethyl acetate. The corresponding fractions from the column were combined and reacted with oxalic acid. Recrystallization of the salt from methanol-diethyl ether gave 4.16 g (27.4%) of white solid, m.p. 163.5°-165° C.

reactant | 4-[bis(4-methoxyphenyl)methyl]piperidine | 0.025 mole, 7.78 g | COC1=CC=C(C=C1)C(C1CCNCC1)C1=CC=C(C=C1)OC | C20H25NO2
reactant | 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone | 0.025 mole, 6.05 g | ClCCCOC1=C(C=C(C=C1)C(C)=O)OC | C12H15ClO3
reactant | potassium carbonate | 0.04 mole, 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.3 g | [I-].[K+]
solvent | 1-butanol | 300 ml | C(CCC)O | C4H10O
product | 1-[4-[3-[4-[Bis(4-methoxyphenyl)methyl]-1-piperidinyl]propoxy]-3-methoxyphenyl]ethanone oxalate | 4.16 g, 27.4% | C(C(=O)O)(=O)O.COC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=C(C=C(C=C1)C(C)=O)OC)C1=CC=C(C=C1)OC | InChI=1S/C32H39NO5.C2H2O4/c1-23(34)27-10-15-30(31(22-27)37-4)38-21-5-18-33-19-16-26(17-20-33)32(24-6-11-28(35-2)12-7-24)25-8-13-29(36-3)14-9-25;3-1(4)2(5)6/h6-15,22,26,32H,5,16-21H2,1-4H3;(H,3,4)(H,5,6)
